US04395406
(b) 4-Methyl-5-chloropyrimid-2-one
Conc. aqueous ammonia (200 ml) and sodium carbonate (0.012 mol) were added to Raney-Ni (20 g) in water (200 ml) followed by the addition of 5-chloro-6-methyl-4-thiouracil (0.023 mol). The reaction mixture was stirred at room temperature for 1 hr and then heated under reflux for 3 hr. The catalyst was removed from the cold reaction mixture and the filtrate evaporated. The residual material was stirred in 5 N NaOH (20 ml) and the sodium salt filtered off from the ice-cold mixture and washed with abs. ethanol and acetone. The product was recrystallised from aqueous ethanol; yield 53%, m.p. 300° C. (decomp.); For elemental analysis the sodium salt in aqueous solution was neutralised with HCl. Found: C, 41.40; H, 3.60. Calc. for C5H5ClN2O: C, 41.54; H, 3.48.

reactant | ammonia | 200 ml | N | H3N
reactant | sodium carbonate | 0.012 mol | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-chloro-6-methyl-4-thiouracil | 0.023 mol | ClC=1C(NC(NC1C)=O)=S | C5H5ClN2OS
solvent | water | 200 ml | O | H2O
catalyst | Ni | 20 g | [Ni] | Ni
product | 4-Methyl-5-chloropyrimid-2-one | yield 53% | CC1=NC(NC=C1Cl)=O | C5H5ClN2O
